### PR TITLE
[Merged by Bors] - feat(Data/Complex/Basic): Adds imaginary number representation

### PR DESCRIPTION
**Pull request by Javernus**
Adds a representation for Complex numbers and DualNumber so they can be used in #eval statements.

---

[Zulip](https://leanprover.zulipchat.com/#narrow/stream/113489-new-members/topic/Representing.20Rational.20as.20Float.20.28for.20Complex.20representation.29).

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Complex/Basic.lean [hunk 1]
```diff
@@ -941,6 +941,16 @@ theorem im_eq_sub_conj (z : ℂ) : (z.im : ℂ) = (z - conj z) / (2 * I) := by
...
 
+
+/-- Show the imaginary number ⟨x, y⟩ as an "x + y*I" string
+
+Note that the Real numbers used for x and y will show as cauchy sequences due to the way Real
+numbers are represented.
+-/
+unsafe instance repr : Repr Complex where
+  reprPrec f p := Repr.addAppParen (_root_.repr f.re ++ " + " ++ _root_.repr f.im ++ "*I") p
+#align complex.has_repr Complex.repr
```
Comment (eric-wieser) [inline Mathlib/Data/Complex/Basic.lean:952]: `#align` is only for things that exist in Lean 3, so should not be added here.

File: Mathlib/Data/Complex/Basic.lean [hunk 2]
```diff
@@ -941,6 +941,16 @@ theorem im_eq_sub_conj (z : ℂ) : (z.im : ℂ) = (z - conj z) / (2 * I) := by
...
 #align complex.im_eq_sub_conj Complex.im_eq_sub_conj
 
+
+/-- Show the imaginary number ⟨x, y⟩ as an "x + y*I" string
+
+Note that the Real numbers used for x and y will show as cauchy sequences due to the way Real
+numbers are represented.
+-/
+unsafe instance repr : Repr Complex where
+  reprPrec f p := Repr.addAppParen (_root_.repr f.re ++ " + " ++ _root_.repr f.im ++ "*I") p
```
Comment (eric-wieser) [inline Mathlib/Data/Complex/Basic.lean:951]: Probably this should be conditional on the precedence of `+` (65) rather than "app" (1024)

File: Mathlib/Data/Complex/Basic.lean [hunk 3]
```diff
@@ -941,6 +941,16 @@ theorem im_eq_sub_conj (z : ℂ) : (z.im : ℂ) = (z - conj z) / (2 * I) := by
     mul_div_cancel_left₀ _ (mul_ne_zero two_ne_zero I_ne_zero : 2 * I ≠ 0)]
 #align complex.im_eq_sub_conj Complex.im_eq_sub_conj
 
+
```
Comment (eric-wieser) [inline Mathlib/Data/Complex/Basic.lean:944]:
```suggestion
```

File: Mathlib/Data/Complex/Basic.lean (hunk 2 above)
Comment (Javernus) [reply Mathlib/Data/Complex/Basic.lean]: I am struggling to make this happen, partly because I cannot think of a way to test this. I have updated everything else based on your feedback, thanks for that.

Comment (eric-wieser) [reply Mathlib/Data/Complex/Basic.lean]: Maybe the easy way to test this would be to add a `Repr` for `DualNumber` at the same time, and check that `DualNumber Complex` has parentheses in the right place?

Comment (Javernus) [reply Mathlib/Data/Complex/Basic.lean]: I will work on that, good suggestion.

Comment (Javernus) [reply Mathlib/Data/Complex/Basic.lean]: I wrote this piece of code in `Algebra/DualNumber.lean`:

```
/-- Show DualNumber with values x and y as an "x + y*ε" string -/
instance instRepr [Repr R] : Repr (DualNumber R) where
  reprPrec f _p := repr f.fst ++ " + " ++ repr f.snd ++ "*ε"

```

I made Repr Complex print `p`, which was `0` for both cases (for a, b (both complex) in `a + bε`). This suggests to me that I am not getting sufficient information to conditionally print the brackets. I will for now opt to _always_ print parentheses. I checked for Repr Rat as well, and that one does not add any outside brackets even though it is represented as `a / b`, which I'd presume should get parentheses if squared, for example. 

Maybe I am missing something, but I tried finding other Repr's that handle conditionally adding brackets, and couldn't find anything. 

I will also add parentheses for DualNumbers, to keep them consistent.

Let me know if there is a way, of course, but I do not see it.

**Review by eric-wieser — COMMENTED** [review]
Can you add a test file that prints out a `DualNumber (DualNumber Nat)` and a `DualNumber Complex`?

**Comment by Javernus** [comment]
Test files have been added.

File: test/Complex.lean [hunk 4]
```diff
@@ -0,0 +1,20 @@
...
+
+private axiom test_sorry : ∀ {α}, α
+unsafe def testRepr (c : ℂ) (s : String) : Lean.Elab.Command.CommandElabM Unit :=
+unless toString (repr c) = s do throwError "got {repr c}"
+
+unsafe def testDualNumberRepr (c : ℂ[ε]) (s : String) : Lean.Elab.Command.CommandElabM Unit :=
+unless toString (repr c) = s do throwError "got {repr c}"
+
+-- Test base complex number representation
+run_cmd unsafe testRepr 0 "Real.ofCauchy (sorry /- 0, 0, 0, 0, 0, 0, 0, 0, 0, 0, ... -/) + Real.ofCauchy (sorry /- 0, 0, 0, 0, 0, 0, 0, 0, 0, 0, ... -/)*I"
```
Comment (eric-wieser) [inline test/Complex.lean:14]: Usually we'd just test these things with
```lean
/-- a code action will replace this docstring -/
#guard_msgs in
#check (0 : ℂ)
```

Comment (Javernus) [reply test/Complex.lean]: I couldn't quite get this working (I may have missed which code action to use, but the build failed on GitHub) so I applied this to what I had. Let me know if this is sufficient.

**Review by eric-wieser — APPROVED** [review]
bors merge

Thanks!

I fixed the #guard_msgs thing; you should have seen a blue light bulb in vscode that you can click on.

Regarding the precedences; I think the correct choice is `70`, as this is the precedence of multiplication, not 81. I've pushed this change, and all your tests still pass.

**Comment by Javernus** [comment]
Thank you for the final touches! I looked through them for my own reference, so next time, I can handle more of the contribution process on my own.

File: Mathlib/Data/Complex/Basic.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/Data/Complex/Basic.lean]: This is a great question; the best I could come up with was
```lean
elab:max "prec_of% " t:term : term => do
  let ⟨.node _ name _⟩ := t | throwErrorAt t "Cannot find syntax node"
  let p ← unsafe Lean.evalConst Lean.ParserDescr name
  let .trailingNode _ prec _ _ := p | throwErrorAt t "Cannot find precedence"
  return Lean.toExpr prec

#eval prec_of% _ * _
```
